US08980886B2
Synthesis of 6-chloro-2-[4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidin-5-yl]-8-methyl-4H-3,1-benzoxazin-4-one
At RT, 385 mg (1.30 mmol) of 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxylic acid was initially charged in 5 ml of acetonitrile, and 0.27 ml (2.33 mmol) of lutidine was added. With stirring, the solution was then cooled to 0° C., 0.14 ml (1.78 mmol) of methanesulphonyl chloride, dissolved in 2 ml of acetonitrile, was added dropwise and the mixture was stirred at 0° C. for another 15 min. A little at a time, an acetonitrile suspension (3 ml) of 0.53 ml (4.54 mmol) of lutidine and 289 mg (1.56 mmol) of 2-amino-5-chloro-3-methylbenzoic acid was then added to this reaction mixture, and stirring was continued for another 15 min. 0.14 ml (1.78 mmol) of methanesulphonyl chloride, dissolved in 2 ml of acetonitrile, was then added dropwise. The reaction was stirred overnight, with the temperature increasing to RT. The solvent was removed under reduced pressure. The residue was then poured into ice-water and mixed in an ultrasonic bath. The residue was filtered off, again taken up in water and sonicated once more. The residue is filtered off, washed with water and dried under reduced pressure. 708 mg (88% of theory; content 86%) of the desired product were isolated. There was not further purification.

reactant | 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxylic acid | 1.30 mmol, 385 mg | ClC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)O)CN1N=C(N=N1)C(F)(F)F | C14H8ClF3N6O2
reactant | lutidine | 2.33 mmol, 0.27 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | methanesulphonyl chloride | 1.78 mmol, 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | lutidine | 4.54 mmol, 0.53 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-amino-5-chloro-3-methylbenzoic acid | 1.56 mmol, 289 mg | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
reactant | methanesulphonyl chloride | 1.78 mmol, 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-chloro-2-[4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidin-5-yl]-8-methyl-4H-3,1-benzoxazin-4-one | ClC=1C=C(C2=C(C(OC(=N2)C=2C(=NC(=NC2)CN2N=C(N=N2)C(F)(F)F)C2=C(C=CC=C2)Cl)=O)C1)C | C22H12Cl2F3N7O2
